US06150391
Step 3: (1RS,3RS,5RS)-2-Benzyl-3-[2-(1,3-dioxan-2-yl)ethyl]-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester
A mixture of N-allyl-N-(2-oxoethyl)carbamic acid, ethyl ester (Schenke, T.; Peterson, U. Eur. patent EPO393424A2, 1992) (0.203 g, 1.19 mmol) and 2-benzylamino-4-(1,3-dioxan-2-yl)butyric acid (0.330 g, 1.18 mmol) in anhydrous toluene (5 mL) was heated at reflux under argon for 24 h. After cooling, the solvents were removed in vacuo and the residue was purified by flash chromatography (silica gel, 50% EtOAc/petroleum ether) to give 0.3234 g (71%) of the title compound as a yellow oil. δH (360 MHz, CDCl3) 1.26 (3H, m), 1.28-1.40 (2H, m), 1.48-1.89 (5H, m), 2.05 (1H, m), 2.69 (1H, m), 2.94 (1H, m), 3.10 (1H, m), 3.30-3.47 (4H, m), 3.58 (1H, m), 3.74 (2H, td), 3.92 (1H, d, J=13.6 Hz), 4.07-4.14 (4H, m), 4.48 (1H, t, J=5.0 Hz), 7.22-7.34 (5H, m). m/e (ES+) 389 (M+H)+.

reactant | N-allyl-N-(2-oxoethyl)carbamic acid, ethyl ester | 1.19 mmol, 0.203 g | C(C=C)N(C(OCC)=O)CC=O | C8H13NO3
reactant | 2-benzylamino-4-(1,3-dioxan-2-yl)butyric acid | 1.18 mmol, 0.330 g | C(C1=CC=CC=C1)NC(C(=O)O)CCC1OCCCO1 | C15H21NO4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (1RS,3RS,5RS)-2-Benzyl-3-[2-(1,3-dioxan-2-yl)ethyl]-2,7-diazabicyclo[3.3.0]octane-7-carboxylic acid, ethyl ester | 0.3234 g, 71% | C(C1=CC=CC=C1)N1C2CN(CC2CC1CCC1OCCCO1)C(=O)OCC | C22H32N2O4
